US05574016
A mixture of ethyl 5-[4-{1-(ethoxy)iminomethyl}phenoxy]valerate hydrochloride (28.2 g), ammonium chloride (4.8 g), ethanol solution of ammonia (42 ml) in ethanol (300 ml) was stirred and refluxed for 15 hours. After cooled to room temperature, the mixture was filtrated, and the filtrate was evaporated in vacuo, and the resulting precipitate was washed with diethyl ether to give ethyl 5-(4-amidinophenoxy)valerate hydrochloride (27.28 g).

reactant | ethyl 5-[4-{1-(ethoxy)iminomethyl}phenoxy]valerate hydrochloride | 28.2 g | Cl.C(C)ON=CC1=CC=C(OCCCCC(=O)OCC)C=C1
reactant | ammonium chloride | 4.8 g | [Cl-].[NH4+]
reactant | ammonia | 42 ml | N | H3N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 5-(4-amidinophenoxy)valerate hydrochloride | 27.28 g | Cl.C(N)(=N)C1=CC=C(OCCCCC(=O)OCC)C=C1 | InChI=1S/C14H20N2O3.ClH/c1-2-18-13(17)5-3-4-10-19-12-8-6-11(7-9-12)14(15)16;/h6-9H,2-5,10H2,1H3,(H3,15,16);1H
